data/mechanism_extracts/OrgChemFront/10.1039_d3qo00290j.json
{"doi": "10.1039_d3qo00290j", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrophotocatalytic trifluoromethylative (or difluoromethylative) radical cyclization of unactivated alkenes using CF3SO2Na and eosin Y under combined visible light and electrochemistry to access fluoromethylated N-heterocycles.", "mechanism_family": ["photoredox_combined", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anode reoxidizes the reduced eosin Y radical anion (PC•−) back to ground-state PC, closing a reductive quenching photocatalytic cycle; cathode reduces protons to H2 (no external oxidant needed).", "key_intermediates": [{"name": "Excited-state eosin Y (PC*), E_red* = 1.51 V vs Ag/AgCl", "smiles": null, "role": "reactive"}, {"name": "CF3 radical generated by SET oxidation of CF3SO2Na and loss of SO2", "smiles": "[CH0]([F])([F])[F]", "role": "reactive"}, {"name": "Alkyl radical A from CF3• addition to the 2-methylallyl alkene of 1a", "smiles": null, "role": "transient"}, {"name": "Cyclohexadienyl radical B from intramolecular radical addition onto the 2-phenyl ring", "smiles": null, "role": "transient"}, {"name": "Cationic Wheland-type intermediate C after SET oxidation of B by PC*", "smiles": null, "role": "reactive"}, {"name": "Reduced eosin Y radical anion (PC•−)", "smiles": null, "role": "transient"}, {"name": "DPE–CF3 adduct 18 (radical trapping product)", "smiles": "FC(F)(F)C(C(c1ccccc1)c1ccccc1)", "role": "off_pathway"}], "electron_flow": "Visible light excites eosin Y to PC*, which oxidizes CF3SO2Na (E_ox = 0.89 V) by SET to give SO2 and CF3•; CF3• adds to the alkene to form alkyl radical A that cyclizes onto the pendant aryl to form cyclohexadienyl radical B, which is oxidized by a second PC* (or PC*) to cation C; deprotonation rearomatizes to product 3a, while PC•− is reoxidized to PC at the anode and protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction fully suppressed (0% yield of 3a), consistent with radical intermediates."}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Only trace 3a; radical pathway implicated."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Trace 3a; DPE–CF3 adduct 18 isolated in 36% yield, directly trapping CF3•."}, {"name": "p-dinitrobenzene (pDNB)", "smiles": "O=[N+]([O-])c1ccc(cc1)[N+](=O)[O-]", "purpose": "redox_probe", "observation": "0% 3a, indicating SET pathway is operative."}, {"name": "CuCl2", "smiles": "[Cl-].[Cl-].[Cu+2]", "purpose": "redox_probe", "observation": "Only trace 3a, consistent with single-electron transfer step."}, {"name": "CCl4", "smiles": "ClC(Cl)(Cl)Cl", "purpose": "redox_probe", "observation": "Trace 3a, supports SET/radical mechanism."}, {"name": "light on/off and current on/off", "smiles": null, "purpose": "other", "observation": "Product formation halts when either light or current is removed; no extended radical chain; under dark periods reaction slows but does not fully stop due to accumulated oxidizing species."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "isolation_of_intermediate", "cyclic_voltammetry", "UV_vis", "on/off_light_or_current", "stoichiometric_intermediate"], "evidence_strength": "strong", "notes": "Authors explicitly exclude an electron-primed photocatalytic mechanism and an oxidative-quenching photoredox cycle because neither ground-state nor photoexcited eosin Y is preferentially oxidized at the anode under the reaction conditions (no new oxidation wave under blue light in CV). Stern–Volmer quenching of EY* by CF3SO2Na and a bathochromic shift in UV–vis upon mixing EY with 2a suggest a non-bonding interaction and SET from 2a to PC*; H2 evolution at the cathode was confirmed by gas detection. A sunlight-driven gram-scale variant also works (86% yield), supporting practicality."}
